* C:\Users\Carlos\Desktop\ITBA\3er año\1er cuatri\TC\TP5\TP5\EJ2\Simulaciones\Cascada.asc
XU2 N015 N007 +VCC -VCC N001 TL08X
C3 N007 N010 {mc(330p,tolc)}
C4 N001 N010 {mc(330p,tolc)}
V1 N011 0 0 AC 1
V2 +VCC 0 15
V3 0 -VCC 15
XU1 N013 N005 +VCC -VCC N003 TL08X
C1 N005 N008 {mc(470p,tolc)}
C2 N003 N008 {mc(470p,tolc)}
R11 N010 N011 {mc(560k,tolr)}
R12 N014 N011 {mc(33k,tolr)}
R13 N010 N014 {mc(68k,tolr)}
R6 N001 N015 {mc(560k,tolr)}
R14 N018 N015 {mc(390,tolr)}
R15 N001 N018 {mc(8.2k,tolr)}
R17 N015 P001 {mc(1k,tolr)}
R18 P001 P002 {mc(390,tolr)}
R19 N006 N007 {mc(68,tolr)}
R20 N001 N006 {mc(56k,tolr)}
R21 N002 N007 {mc(6.8k,tolr)}
R22 N001 N002 {mc(180k,tolr)}
R9 P002 0 {mc(150,tolr)}
R8 N008 N009 {mc(82k,tolr)}
R10 N012 N009 {mc(15k,tolr)}
R16 N008 N012 {mc(270k,tolr)}
R23 0 N008 {mc(39k,tolr)}
R24 N016 N008 {mc(33,tolr)}
R25 0 N016 {mc(3.3k,tolr)}
R26 0 N010 {mc(18k,tolr)}
R27 N020 N010 {mc(27,tolr)}
R28 0 N020 {mc(6.8k,tolr)}
R29 N003 N005 {mc(27k,tolr)}
R30 N004 N005 {mc(560k,tolr)}
R31 N003 N004 {mc(560k,tolr)}
R1 N003 N013 {mc(560k,tolr)}
R2 N017 N013 {mc(390,tolr)}
R3 N003 N017 {mc(8.2k,tolr)}
R7 N013 P003 {mc(1k,tolr)}
R35 P003 P004 {mc(390,tolr)}
R36 P004 0 {mc(150,tolr)}
V4 N009 0 0 AC 1
.ac dec 1000 1k 1Meg
.step param 1 100 1
.param tolc=0.1
.param tolr=0.01
.lib C:\Users\Carlos\Documents\LTspiceXVII\lib\Opamps_Comparators_ST.lib
.backanno
.end
